datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].[CH:10]1=[C:11]([O-:12])[NH:82][C:73](=[O:74])[NH:82][C:61]1=[O:62]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([CH:10]2[C:11](=[O:12])[NH:82][C:73](=[O:74])[NH:82][C:61]2=[O:62])[C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C(/[CH:10]=[C:11](/[N:12]2CCCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)C=C1.C1C[N+]2(C[C:21]3=[CH:20][C:31]4=[C:32](O[C:22]3=[O:23])[CH:33]=[CH:34][CH:35]=[CH:36]4)CCN1CC2>>C1=CC=C([CH:10]([C:11](=[N+:12]2CCCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[CH:20]2[C:21](C[N+]34CCN(CC3)CC4)=[C:22]([O-:23])O[C:32]3=[C:31]2[CH:36]=[CH:35][CH:34]=[CH:33]3)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[Si:63]1(C)CCC[CH:11]([H:10])[CH2:62]1.N#C[C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[C:23]([N+:24]([O-])=[O:25])=[CH:22]1>>C[Si:63]1(C)CCC[CH+:11][CH2:62]1.N#C[C:21]1=[CH:22][C:23](=[N+:24]([O-])[O-:25])[C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]1[H:10] 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C1CC[C:21](=[O:20])C1.CC[O:62]/[C:11](=[CH:10]/[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])[O-:12]>>CC[O:62][C:11]([CH:10]([O:20][C-:21]1CCCC1)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:12] 10,11=10,20;12=11,12;20,21=21"
"C1CC[C:22](=[O:23])[CH:21]=[CH:20]C1.CN1C(=O)[C@H](CC2=CC=CC=C2)[N:12](/[CH:11]=[CH:10]/C2=CC=CC=C2)C12CCCC2>>CN1C(=O)[C@H](CC2=CC=CC=C2)[N+:12](=[CH:11][CH:10](C2=CC=CC=C2)[CH:20]2CCCC[C:22]([O-:23])=[CH:21]2)C12CCCC2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:50][C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23].[O-:10][C:61]1=[CH:62][CH:63]=[C:64]([C:75]#[N:66])[CH:73]=[CH:72]1>>CC[O:50][C:22](=[CH:21][CH:20]([O:10][C:61]1=[CH:62][CH:63]=[C:64]([C:75]#[N:66])[CH:73]=[CH:72]1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10=20;20,21=21,22;22,23=23"
"C[CH:11]=[CH2:10].O=[N+]([O-])[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>C[CH+:11][CH2:10][CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]1=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]1 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)(C)[O:33][C:22](/[N:21]=[CH:20]/C1=CC=CC=C1)=[O:23].C[C:11]1=[CH:10][C:61]2=[C:62]([NH:12]1)[CH:63]=[CH:64][C:73](Cl)=[CH:72]2>>CC(C)(C)[O:33][C:22](=[N:21][CH:20](C1=CC=CC=C1)[CH:10]1[C:11](C)=[NH+:12][C:62]2=[C:61]1[CH:72]=[C:73](Cl)[CH:64]=[CH:63]2)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
CC(C)[O:72][C:61]([S-:10])=[S:62].F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>CC(C)[O:72][C:61]([S:10][CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)[C:41]1=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]1)=[S:62] 10=20
"CC12C3(C)C4(C)C5(C)C1(C)[Fe-2:11]2345(C#[O+])(C#[O+])[H:10].C[O:49][C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1>>CC12C3(C)C4(C)C5(C)C1(C)[Fe-:11]2345(C#[O+])C#[O+].C[O:49][C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1 10,11=10,20"
"C1CC[C:22](=[O:23])[CH:21]=[CH:20]C1.C[N:10](C)[NH2:61]>>C[N+:10](C)([CH:20]1CCCC[C:22]([O-:23])=[CH:21]1)[NH2:61] 10=20;20,21=21,22;22,23=23"
"C1=CC=C([P+:61](C2=CC=CC=C2)(C2=CC=CC=C2)[CH:10]=[C:11]=[N-:12])C=C1.Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]([C:11]#[N:12])[P+:61](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"CC(C)(C)[OH:10].CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[C:21]2[C:22](=[O:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([OH+:10]C(C)(C)C)[C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1 10=20;20,21=21,22;22,23=23"
"C[C:21]1=[CH:20]CC[C:22]1=[O:23].C[Si:63](C)(C)[O:12][C:11](=[CH2:10])/[CH:72]=[CH:73]/[O:74]C>>C[C:21]1=[C:22]([O-:23])CC[CH:20]1[CH2:10][C:11](=[O+:12][Si:63](C)(C)C)/[CH:72]=[CH:73]/[O:74]C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"COC1=CC=[N+](C/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]2)[C:22](C)=[O:23])C=C1.C[Si](C)(C)C12[C:62]3([CH:11]=[CH2:10])[Co-3:63]1(C#[O+])(C#[O+])(C#[O+])[Co-3:73]23(C#[O+])(C#[O+])C#[O+]>>COC1=CC=[N+](C[C:21]([CH:20]([CH2:10][CH+:11][C:62]23C4([Si](C)(C)C)[Co-3:63]2(C#[O+])(C#[O+])(C#[O+])[Co-3:73]43(C#[O+])(C#[O+])C#[O+])[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]2)=[C:22](C)[O-:23])C=C1 10,11=10,20;20,21=21,22;22,23=23"
